US08008525B2
Ethyl 3-(3-fluoro-4-{[3-(2-hydroxyethoxy)-5-phenoxybenzyl]oxy}phenyl)propanoate
Ethyl 3-(4-{[3-(2-{[tert-butyl(dimethyl)silyl]oxy}ethoxy)-5-phenoxybenzyl]oxy}-3-fluorophenyl)propanoate (0.43 g, 0.75 mmol) was dissolved in a solution of tetrabutylammonium fluoride in THF (3 mL, 3.00 mmol), and then the mixture was stirred at room temperature for 3 hours. The reaction mixture was diluted with ethyl acetate, washed with water, and concentrated under reduced pressure. The resulting residue was purified with silica gel column chromatography (hexane/ethyl acetate=5:5) to give the title compound (0.25 g, yield 74%) as an oily matter.

reactant | Ethyl 3-(4-{[3-(2-{[tert-butyl(dimethyl)silyl]oxy}ethoxy)-5-phenoxybenzyl]oxy}-3-fluorophenyl)propanoate | 0.75 mmol, 0.43 g | [Si](C)(C)(C(C)(C)C)OCCOC=1C=C(COC2=C(C=C(C=C2)CCC(=O)OCC)F)C=C(C1)OC1=CC=CC=C1 | C32H41FO6Si
reactant | THF | 3.00 mmol, 3 mL | C1CCOC1 | C4H8O
solvent | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 3-(3-fluoro-4-{[3-(2-hydroxyethoxy)-5-phenoxybenzyl]oxy}phenyl)propanoate | 0.25 g, yield 74% | FC=1C=C(C=CC1OCC1=CC(=CC(=C1)OC1=CC=CC=C1)OCCO)CCC(=O)OCC | C26H27FO6
